US06881743B2
(b) 5-Benzylcarbamoyl-6-hydroxy-nicotinic acid methyl ester
To a mixture of 2-hydroxy-pyridine-3,5-dicarboxylic acid 5-methyl ester, 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDAC. HCl 0.49 g, 2.6 mmol), 1-hydroxybenzotriazole hydrate (HOBT 0.35 g, 2.6 mmol), in dimethylformamide (10 ml) was added benzylamine 0.27 g (2.6 mmol). The mixture was stirred overnight at room temperature. Water was added (20 ml), and the mixture was filtered. The solid product was slurried in hot ethyl acetate to give 0.17 g (28% yield) of the title compound. MS: m/z (APCI, AP+) 287 [M.]+. CHN Analysis: C15H14N2O4.0.47 H2O; Calcd: C, 61.12; H, 5.11; N, 9.50. Found: C, 61.17; H, 4.81; N, 9.71.

reactant | 2-hydroxy-pyridine-3,5-dicarboxylic acid 5-methyl ester | COC(=O)C=1C=C(C(=NC1)O)C(=O)O | C8H7NO5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.6 mmol, 0.49 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 2.6 mmol, 0.35 g | O.ON1N=NC2=C1C=CC=C2
reactant | benzylamine | 2.6 mmol, 0.27 g | C(C1=CC=CC=C1)N | C7H9N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 5-Benzylcarbamoyl-6-hydroxy-nicotinic acid methyl ester | 0.17 g, 28% yield | COC(C1=CN=C(C(=C1)C(NCC1=CC=CC=C1)=O)O)=O | C15H14N2O4
